US09403832B2
Part A. (S)-tert-butyl 2-((pyrazolo[1,5-a]pyrimidin-5-ylamino)methyl)pyrrolidine-1-carboxylate
The commercially available 5-chloropyrazolo[1,5-a]pyrimidine is reacted with (S)-tert-butyl 2-(aminomethyl)pyrrolidine-1-carboxylate under the amine displacement conditions described in example 5.6.5 to give 96% product.

reactant | 5-chloropyrazolo[1,5-a]pyrimidine | ClC1=NC=2N(C=C1)N=CC2 | C6H4ClN3
reactant | (S)-tert-butyl 2-(aminomethyl)pyrrolidine-1-carboxylate | NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
product | (S)-tert-butyl 2-((pyrazolo[1,5-a]pyrimidin-5-ylamino)methyl)pyrrolidine-1-carboxylate | 96% | N1=CC=C2N1C=CC(=N2)NC[C@H]2N(CCC2)C(=O)OC(C)(C)C | C16H23N5O2
